US04618634
Preparation of N,N'-bis-[2-(1,2,2,6,6-pentamethyl-piperidin-4-yloxy)-acetyl]-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-1,6-diaminohexane
38.29 g (0.07 mol) of N,N'-bis-(2-chloroacetyl)-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-1,6-diaminohexane are dissolved in 100 ml of anhydrous xylene. The solution thus obtained is cooled to 0°-10° C.; the solution of 29.72 g (0.154 mol) of the sodium alcoholate of 1,2,2,6,6-pentamethyl-piperidin-4-ol in 120 ml of xylene (obtained beforehand by reacting 3.54 g (0.154 mol) of sodium with 26.38 g (0.154 mol) of 1,2,2,6,6-pentamethyl-piperidin-4-ol in 120 ml of anhydrous xylene) is then added slowly with continuous stirring.

reactant | N,N'-bis-(2-chloroacetyl)-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-1,6-diaminohexane | 0.07 mol, 38.29 g | ClCC(=O)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C(CCl)=O)C1CC(NC(C1)(C)C)(C)C | C28H52Cl2N4O2
reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | sodium | 0.154 mol | [Na] | Na
reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | 0.154 mol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 0.154 mol, 120 ml, 3.54 g | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-bis-[2-(1,2,2,6,6-pentamethyl-piperidin-4-yloxy)-acetyl]-N,N'-bis-(2,2,6,6-tetramethyl-piperidin-4-yl)-1,6-diaminohexane | CN1C(CC(CC1(C)C)OCC(=O)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C(COC1CC(N(C(C1)(C)C)C)(C)C)=O)C1CC(NC(C1)(C)C)(C)C)(C)C | C48H92N6O4
